US04533731
To 70 ml of ethyl alcohol was added 3.50 g of 1-(3-diethylaminopropyl)-3-phthalimido-4-chloroindazole. The mixture was added with 2.50 g of 85% hydrazine hydrate under cooling with ice and stirred for 3 hours under cooling with ice. The reaction mixture was filtered and the filtrate was condensed under reduced pressure. The condensed residue was added with 20 ml of water and extracted with chloroform. The chloroform layer was extracted with 2N-hydrochloric acid and the pH of the hydrochloric acid layer was adjusted to 10 with potassium carbonate. The alkali layer was extracted with chloroform. The chloroform layer was dried over anhydrous sodium sulfate and chloroform was removed under reduced pressure to give 2.03 g of 1-(3-diethylaminopropyl)-3-amino-4-chloroindazole having the following analytical values in a yield of 85%.

reactant | ethyl alcohol | 70 ml | C(C)O | C2H6O
reactant | 1-(3-diethylaminopropyl)-3-phthalimido-4-chloroindazole | 3.50 g | C(C)N(CCCN1N=C(C2=C(C=CC=C12)Cl)N1C(C=2C(C1=O)=CC=CC2)=O)CC | C22H23ClN4O2
reactant | hydrazine hydrate | 2.50 g | O.NN
solvent | water | 20 ml | O | H2O
product | 1-(3-diethylaminopropyl)-3-amino-4-chloroindazole | 2.03 g, yield of 85% | C(C)N(CCCN1N=C(C2=C(C=CC=C12)Cl)N)CC | C14H21ClN4
